US08877782B2
f) 6-(5-Methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 84f, 6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (200 mg, 0.6 mmol) was converted, instead of [6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine, to the title compound (190 mg, 79%) which was obtained as a white solid. MS: m/e=408.4 [M+H]+.

reactant | 6-(5-methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.6 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=C(C=CC1)C)=O | C19H18N2O4
reactant | 6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=C(C=CC=C1)F)=O | C18H15FN2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-(5-Methyl-3-m-tolyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 190 mg, 79% | CC1=C(C(=NO1)C=1C=C(C=CC1)C)COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C23H25N3O4
